US05234946
10.0 g of 3-hydroxybenzaldehyde and 9.55 g of a 40% methanol solution of methylamine were mixed, and then the solvent was evaporated. The resulting Schiff base was dissolved in 50 ml of ethanol, and with stirring under ice cooling, 10.0 g of sodium borohydride was added The mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate and a saturated aqueous sodium chloride solution. The organic layer was separated, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography [Wakogel C-100, 100 g; eluting solvent: methylene chloride/methanol=10/1→5/1to give 8.88 g (yield 79%) of N-methyl-3-hydroxybenzylamine as pale yellow crystals having a melting point of 138° to 140° C.

reactant | 3-hydroxybenzaldehyde | 10.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methanol | CO | CH4O
reactant | methylamine | CN | CH5N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | N-methyl-3-hydroxybenzylamine | 8.88 g, yield 79% | CNCC1=CC(=CC=C1)O | C8H11NO
